*
* Diode Sim Model Produced by Altium Ltd
* Date:  20-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZV90C39
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZV90C39 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 0.31465
Vbrk 50 10 39

* Subcircuit models
*+  BV = 30.139
*+  IBV = 0.43564
.MODEL DIDEAL D
+(
+  IS = 8.5799E-16
+  N = 0.82675
+  TT = 1.4427E-07
+  CJO = 2.1774E-11
+  VJ = 0.68651
+  M = 0.33323
+)

.MODEL DHIGH D
+(
+  IS = 1.30778735183412E-05
+  N = 0.82675
+  RS = 0.31465
+)

.MODEL DRECOMB D
+(
+  IS = 3.3167619976185E-11
+  N = 2.47048492907412
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZV90C39
